US08859580B2
2,2,2-Trifluoro-1-[(7R,11R,12S)-6,7,8,9,10,11-hexahydro-2,11,12-trimethyl-7,11-methano-1H-oxazolo[4,5-h][3]benzazocin-8-yl]-ethanone
1-[(2R,6R,11S)-7-Amino-8-hydroxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone (200 mg) taken up in trimethyl orthoacetate (1 mL) is heated at 100° C. for 3 h. After cooling to ambient temperature, the mixture is concentrated and the residue is triturated with little methanol and dried to give the title compound.

reactant | 1-[(2R,6R,11S)-7-Amino-8-hydroxy-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone | 200 mg | NC1=C(C=CC=2C[C@H]3N(CC[C@@](C21)([C@@H]3C)C)C(C(F)(F)F)=O)O | C16H19F3N2O2
reactant | trimethyl orthoacetate | 1 mL | C(C)(OC)(OC)OC | C5H12O3
product | 2,2,2-Trifluoro-1-[(7R,11R,12S)-6,7,8,9,10,11-hexahydro-2,11,12-trimethyl-7,11-methano-1H-oxazolo[4,5-h][3]benzazocin-8-yl]-ethanone | FC(C(=O)N1[C@@H]2CC3=C([C@](CC1)([C@@H]2C)C)C2=C(C=C3)OC(N2)C)(F)F | C18H21F3N2O2
